US04081477
4 g of (+)-pinane-3-carboxylic acid chloride are mixed with methanol and the solution is boiled under reflux in the presence of pyridine, then concentrated to a small volume, mixed with water and extracted with ether. Fractional distillation of the dried ether solution gives (+)-pinane-3-carboxylic acid methyl ester boiling at from 55 to 56° C/0.2 mm Hg and having an optical rotation of [α]D24 = +18.9° (pure).

reactant | (+)-pinane-3-carboxylic acid chloride | 4 g | C12C(C(CC(C1(C)C)C2)C(=O)Cl)C | C11H17ClO
reactant | methanol | CO | CH4O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (+)-pinane-3-carboxylic acid methyl ester | COC(=O)C1C(C2C(C(C1)C2)(C)C)C | C12H20O2
